US08487108B2
To a solution of (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chloro-4-fluorophenyl)methyl)piperidine-1-carboxylate (1 g, 2.6 mmol) and DMAP (79 mg, 0.62 mmol) in dry CH2Cl2 (20 mL), Et3N (657 mg, 6.5 mmol) was added. The resulting mixture was cooled to 0-5° C. under ice-water bath, a solution of methyl chloroformate (1.22 g, 13 mmol, 5 eq) was added dropwise. After addition, the reaction mixture was stirred for 1-2 hr at rt. Water (20 mL) was added to quench the reaction. The aqueous layer was extracted with CH2Cl2 (3×20 mL), the combined organic layers were dried over Na2SO4, filtered and concentrated to give the crude product, which was purified by preparative HPLC to afford (R)-tert-butyl 3-((R)-(3-chloro-4-fluorophenyl)(2-(methoxycarbonylamino)ethoxy)methyl)piperidine-1-carboxylate (50 mg, yield 4.3%). 1H NMR (CDCl3, 400 MHz) δ 7.27 (m, 1H), 7.12 (m, 2H), 4.30 (s, 1H), 3.91 (d, 2H), 3.66 (s, 3H), 3.10-3.40 (m, 5H), 2.90 (m, 1H), 1.75 (s, 1H), 1.55 (d, 1H), 1.46 (s, 9H), 1.33 (m, 2H), 1.04 (m, 1H).

reactant | (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chloro-4-fluorophenyl)methyl)piperidine-1-carboxylate | 2.6 mmol, 1 g | NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=C(C=C1)F)Cl | C19H28ClFN2O3
reactant | Et3N | 6.5 mmol, 657 mg | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 13 mmol, 1.22 g, 5 eq | ClC(=O)OC | C2H3ClO2
reactant | Water | 20 mL | O | H2O
catalyst | DMAP | 0.62 mmol, 79 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 3-((R)-(3-chloro-4-fluorophenyl)(2-(methoxycarbonylamino)ethoxy)methyl)piperidine-1-carboxylate | 50 mg, yield 4.3% | ClC=1C=C(C=CC1F)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCNC(=O)OC | C21H30ClFN2O5
